US07737143B2
In a procedure analogous to Example 3, reaction of 6-chloro-N-[1-(4-fluorophenyl)ethyl]pyrazin-2-amine (1.80 g, 7.15 mmol) and 5-hydroxymethyl benzimidazole (1.26 g, 8.5 mmol) furnished the two products which were separated by column chromatography using dichloromethane-methanol (98:2-92:8) as eluant. From the less polar fractions was obtained [1-(6-{[1-(4-fluorophenyl)ethyl]amino}pyrazin-2-yl)-1H-benzimidazol-6-yl]methanol as a pale yellow solid (210 mg).

reactant | 6-chloro-N-[1-(4-fluorophenyl)ethyl]pyrazin-2-amine | 7.15 mmol, 1.80 g | ClC1=CN=CC(=N1)NC(C)C1=CC=C(C=C1)F | C12H11ClFN3
reactant | 5-hydroxymethyl benzimidazole | 8.5 mmol, 1.26 g | OCC1=CC2=C(N=CN2)C=C1 | C8H8N2O
product | [1-(6-{[1-(4-fluorophenyl)ethyl]amino}pyrazin-2-yl)-1H-benzimidazol-6-yl]methanol | 210 mg | FC1=CC=C(C=C1)C(C)NC1=CN=CC(=N1)N1C=NC2=C1C=C(C=C2)CO | C20H18FN5O
